US20010044444A1
Synthesis of 2-amino-4-hexylaminopyrimidine 3-oxide:
0.7 g of potassium hydroxide was dissolved in 100 ml of absolute ethanol, in a three-necked flask. 2.2 g of 2-amino-4-hexylamino-6-chloropyrimidine 3-oxide were then added. After complete dissolution, 0.5 g of palladium-on-charcoal was added and the mixture was reacted in a hydrogenator at a hydrogen pressure of 3 bar. After 2 hours, the medium was filtered through filter paper and concentrated under vacuum. The pale yellow solid obtained was recrystallized from 20 ml of acetonitrile. It was filtered off and the filter cake was washed with 10 ml of water. The solid was dried in a desiccator under vacuum. 1 g of the expected compound was thus obtained, for a yield of 53%.

reactant | potassium hydroxide | 0.7 g | [OH-].[K+]
reactant | 2-amino-4-hexylamino-6-chloropyrimidine 3-oxide | 2.2 g | NC1=NC(=CC(=[N+]1[O-])NCCCCCC)Cl | C10H17ClN4O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.5 g | [Pd] | Pd
product | 2-amino-4-hexylaminopyrimidine 3-oxide | 1 g, yield of 53% | NC1=NC=CC(=[N+]1[O-])NCCCCCC | C10H18N4O
